US04952600
(S)-3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone
A mixture 9.7 g of (S)-3-[[(1,1-dimethylethyl)-dimethylsilyl]oxy]-1-(2-propynyl)-2-pyrrolidinone, 50 ml of dioxane, 5.7 g of piperidine, 1.8 g of paraformaldehyde, 10.5 ml of acetic acid and 0.16 g of cupric chloride was stirred for 30 minutes and then refluxed for 2 hours. The mixture was cooled in an ice bath, basified with ammonium hydroxide and diluted with water and dichloromethane. The dichloromethane solution was washed with water, dried and concentrated in vacuo, giving the desired product as an oil, [α]D26 =-32° (dichloromethane).

reactant | (S)-3-[[(1,1-dimethylethyl)-dimethylsilyl]oxy]-1-(2-propynyl)-2-pyrrolidinone | 9.7 g | CC(C)(C)[Si](O[C@@H]1C(N(CC1)CC#C)=O)(C)C | C13H23NO2Si
reactant | piperidine | 5.7 g | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 1.8 g | C=O | CH2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 10.5 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (S)-3-[[(1,1-Dimethylethyl)dimethylsilyl]oxy]-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | CC(C)(C)[Si](O[C@@H]1C(N(CC1)CC#CCN1CCCCC1)=O)(C)C | C19H34N2O2Si
